### PR TITLE
Add Erdős Problem 922 (Folkman's bound on the chromatic number), link the formal proof

### LINKED ISSUE #6256: Erdős Problem 922
### What is the Erdős problem?

https://www.erdosproblems.com/922

Let $k\geq 0$. Let $G$ be a graph such that every subgraph $H$ contains an independent set of size $\geq (n-k)/2$, where $n$ is the number of vertices of $H$. Must $G$ have chromatic number at most $k+2$?

Status: proved (Folkman). A formal proof exists in plby/lean-proofs (`Erdos922.erdos_922`, Codex and GPT-5.6 Sol). Related to #73 (same hypothesis).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6256.

### What changed
Adds `FormalConjectures/ErdosProblems/922.lean` with:
- `erdos_922` (`research solved`, `answer(True)`): if every induced subgraph on `n` vertices has an independent set of size `≥ (n-k)/2` then `χ(G) ≤ k + 2` (Folkman [Fo70b]). The hypothesis is stated exactly as in the existing `erdos_73`. Linked to plby/lean-proofs `Erdos922.erdos_922` (Codex and GPT-5.6 Sol; single Mathlib-only file, ~5600 lines).

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos922.erdos_922` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's subgraph hypothesis is equivalent to its finset form, which is the `erdos_73`-style hypothesis used here):

<details>
<summary>Bridge</summary>

```lean
open SimpleGraph

namespace Bridge922

lemma isIndepSet_of_induce_edgeSet_eq_empty {V : Type*} (G : SimpleGraph V) (I : Finset V)
    (h : (G.induce (I : Set V)).edgeSet = ∅) : G.IsIndepSet (I : Set V) := by
  intro a ha b hb hab hadj
  have : s((⟨a, ha⟩ : (I : Set V)), ⟨b, hb⟩) ∈ (G.induce (I : Set V)).edgeSet := by
    simpa [SimpleGraph.comap] using hadj
  rw [h] at this
  exact this

theorem erdos_922_bridge : type_of% Erdos922.erdos_922 := by
  show True ↔ _
  simp only [true_iff]
  intro k V _ G hG
  refine Erdos922Plby.erdos_922 G k ?_
  rw [Erdos922Plby.hasLargeIndependentSets_iff_onFinsets]
  intro S
  obtain ⟨I, hIS, hI, hcard⟩ := hG S
  refine ⟨I, hIS, isIndepSet_of_induce_edgeSet_eq_empty G I hI, ?_⟩
  have : (S.card : ℝ) ≤ 2 * I.card + k := by linarith
  exact_mod_cast this

end Bridge922
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«922»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/922.lean [hunk 1]
```diff
@@ -0,0 +1,57 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/922.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
